US07452880B2
Sodium hydride (3.88 g of 60% dispersion in mineral oil, 0.097 mol) was added to 150 mL of dry DMF under nitrogen, and the reaction mixture was cooled in an ice bath. 2,4-Difluorophenol (8.85 mL, 0.092 mol) was added dropwise over 10 minutes (maintaining temperature between 5 and 10° C.), after which the reaction mixture was stirred for 15 minutes at 0° C., followed by 15 minutes of stirring at room temperature. A solution of 3-Iodo-6-methanesulfonyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine (11.91 g, 0.026 mol) in 100 mL dry DMF was added, and the reaction mixture was heated to 140° C. for four hours while stirring under nitrogen. The reaction mixture was cooled to room temperature, and volatiles were removed under reduced pressure. The was added to 200 mL of 10% aqueous ammonium chloride, 50 mL water, and 250 mL EtOAc. The aqueous phase was partitioned off and extracted once with 250 mL EtOAc. The combined organic phases were washed with saturated aqueous brine, dried over MgSO4, filtered, and evaporated under reduced pressure to yield an oil. The oil was eluted through silica gel with hexanes EtOAc (20:1 to 10:1) to afford 6.23 g of 6-(2,4-Difluoro-phenoxy)-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine.

reactant | Sodium hydride | 0.097 mol, 3.88 g | [H-].[Na+]
reactant | 2,4-Difluorophenol | 0.092 mol, 8.85 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | 3-Iodo-6-methanesulfonyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.026 mol, 11.91 g | IC1=NN(C2=NC(=NC=C21)S(=O)(=O)C)COCC[Si](C)(C)C | C12H19IN4O3SSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 6-(2,4-Difluoro-phenoxy)-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine | 6.23 g | FC1=C(OC2=NC=C3C(=N2)N(N=C3I)COCC[Si](C)(C)C)C=CC(=C1)F | C17H19F2IN4O2Si
